US08975400B2
7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
A mixture of 7-chloro-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (700 mg, 4.08 mol), 2-iodopropane (1.04 g, 6.12 mmol) and Cs2CO3 (2.66 g, 8.16 mmol) in acetonitrile (15 mL) was refluxed for 3 h, filtered and concentrated to remove solvent to get crude product (700 mg) without further purification.

reactant | 7-chloro-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 4.08 mol, 700 mg | ClC=1C=C2N(C(N1)=O)CCN2 | C6H6ClN3O
reactant | 2-iodopropane | 6.12 mmol, 1.04 g | IC(C)C | C3H7I
reactant | Cs2CO3 | 8.16 mmol, 2.66 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 700 mg | ClC=1C=C2N(C(N1)=O)CCN2C(C)C | C9H12ClN3O
